US07838675B2
N-[2-[(2,3-Difluorobenzyl)thio]-6-(3-hydroxypropoxy)pyrimidin-4-yl]piperazine-1-sulfonamide
To a solution of tert-butyl 4-({[2-[(2,3-difluorobenzyl)thio]-6-(3-hydroxypropoxy)pyrimidin-4-yl]amino}sulfonyl)piperazine-1-carboxylate (the product from step ii), 0.83 g) in DCM (5 ml) was added TFA (5 ml) slowly. The reaction was then stirred at room temperature for 18 h. The reaction was reduced in vacuo and the residue purified by prep HPLC to give the title compound as a white solid. Yield 160 mg

reactant | tert-butyl 4-({[2-[(2,3-difluorobenzyl)thio]-6-(3-hydroxypropoxy)pyrimidin-4-yl]amino}sulfonyl)piperazine-1-carboxylate | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CC2)C(=O)OC(C)(C)C)OCCCO)C=CC=C1F | C23H31F2N5O6S2
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[2-[(2,3-Difluorobenzyl)thio]-6-(3-hydroxypropoxy)pyrimidin-4-yl]piperazine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCNCC2)OCCCO)C=CC=C1F | C18H23F2N5O4S2
